US07049310B2
b) 5-Bromo-1,3-dihydropyrrolo[2,3-b]pyridin-2-one
To a stirred solution of 3,3,5-tribromo-1,3-dihydropyrrolo[2,3-b]pyridin-2-one (2.0 g, 5.4 mmole) in acetic acid (50 mL) at RT was added Zn metal. The reaction became exothermic and was cooled by the use of an ice bath during the initial 30 minutes. After 5 hr the reaction was filtered through celite®, and the filter pad was washed with EtOAc. The filtrate was concentrated under vacuum and neutralized with saturated aqueous NaHCO3 solution. The neutralized aqueous filtrate was then extracted with EtOAc (2×200 mL), and the combined organic extracts were dried over Na2SO4 and concentrated to a solid. The solid was washed with hexanes and dried under high vacuum to give the title compound (0.36 g, 32%): MS (ES) m/e 215 (M+H)+. This was used without further purification.

reactant | 3,3,5-tribromo-1,3-dihydropyrrolo[2,3-b]pyridin-2-one | 5.4 mmole, 2.0 g | BrC1(C(NC2=NC=C(C=C21)Br)=O)Br | C7H3Br3N2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | Zn | [Zn] | Zn
product | 5-Bromo-1,3-dihydropyrrolo[2,3-b]pyridin-2-one | 0.36 g, 32% | BrC=1C=C2C(=NC1)NC(C2)=O | C7H5BrN2O
